US05550134
(+)-(4aR)-(10bR)-4-methyl-8-benzyloxycarbonyl-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 50 mL round bottom flask was charged with (+)-{4aR)-(10bR)-4-methyl-8-carboxy-10b-methyl-1,2,3,4,4a,-5,6,10b-octahydrobenzo[f]quinolin-3-one (100 mg, 0.37) and 2 mL of benzene. Oxalyl chloride (1.1 mmol) was added dropwise via syringe to the stirred mixture, followed by a catalytic amount of dimethylformamide (one drop). The mixture was allowed to stir at room temperature for 25 min, and then the volatiles were removed in vacuo. One mL of THF was added, followed by a solution of benzyl alcohol and pyridine (4 eq) in 1 mL of THF at 0°. It was then allowed to warm to room temperature, diluted with 50 mL of chloroform, and washed with 0.1N hydrochloric acid (2×25 mL), 10% sodium bicarbonate (2×25 mL), water, (2×25 mL), and brine (2×25 mL. The combined organic extracts were dried over sodium sulfate, concentrated and chromatographed on silica (ethyl acetate eluent), to give 11 mg (8%) of the title compound as an amorphous yellow foam. FDMS: m/e=349.

reactant | (+)-{4aR)-(10bR)-4-methyl-8-carboxy-10b-methyl-1,2,3,4,4a,-5,6,10b-octahydrobenzo[f]quinolin-3-one | 100 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C(=O)O)C)=O | C16H19NO3
reactant | Oxalyl chloride | 1.1 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | pyridine | 4 eq | N1=CC=CC=C1 | C5H5N
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
product | (+)-(4aR)-(10bR)-4-methyl-8-benzyloxycarbonyl-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 11 mg, 8% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C(=O)OCC3=CC=CC=C3)C)=O | C23H25NO3
